US05242895
Preparation of methyl 2-[1-(N-allyloxyimino)ethyl]-6-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate (Compound No. 14)
1.0 g of methyl 2-acetyl-6-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate, 1.0 g of allyloxyamine hydrochloride and 0.9 g of potassium acetate were added to 30 ml of methanol, and were refluxed with stirring for 5 hours. The reaction mixture was then poured into a cold water, and was extracted with ethyl acetate. The organic layer thus formed was washed with firstly dilute hydrochloric acid, then sodium hydrogencarbonate and water in sequence. The organic layer thus washed was then dried and concentrated. The residue oily product was purified by column chromatography to obtain 0.54 g of the aimed compound (melting point=76° to 78° C.) at a yield of 46% as a colorless transparent crystal.

reactant | methyl 2-acetyl-6-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate | 1.0 g | C(C)(=O)C1=C(C(=O)OC)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C16H16N2O6
reactant | allyloxyamine hydrochloride | 1.0 g | Cl.C(C=C)ON
reactant | potassium acetate | 0.9 g | C(C)(=O)[O-].[K+]
reactant | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | methyl 2-[1-(N-allyloxyimino)ethyl]-6-[(4,6-dimethoxypyrimidin-2-yl)oxy]benzoate | 0.54 g, yield of 46% | C(C=C)ON=C(C)C1=C(C(=O)OC)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C19H21N3O6
